US05262426
N-cyclohexyl-3-methoxy-N-(1-methylethyl)-4-[[2-(2-pyridinyl)-4H-imidazo[4,5-b]pyridin-4-yl]methyl]benzamide
2-(2-Pyridyl)-1H-imidazo(4,5-b)pyridine (1.1 g, 5.6 mmol) was added portionwise with stirring over 5 minutes to a suspension of hexane-washed NaH (150 mg, 6.16 mmol) in dimethylacetamide (15 ml) under Ar and stirred at room temperature for 1 hour. 4-Bromomethyl-3-methoxy-N-cyclohexyl-N-isopropylbenzamide (2.1 g, 5.6 mmol) was added portionwise over 30 minutes and the mixture was stirred overnight at 25° C. The solvent was removed at <50° C. in vacuo using an oil pump and the residue was chromatographed on silica gel with 95/5/1 CH2Cl2 /MeOH/NH4OH to give the titled product (1.95 g, 67%) as a glass. Anal. Calcd. for C29H33N5O2.H2O: C, 69.44; H, 7.03; N, 13.96. Found: C, 69.70; H, 7.16; N, 13.87.

reactant | 2-(2-Pyridyl)-1H-imidazo(4,5-b)pyridine | 5.6 mmol, 1.1 g | N1=C(C=CC=C1)C=1NC=2C(=NC=CC2)N1 | C11H8N4
reactant | hexane | CCCCCC | C6H14
reactant | NaH | 6.16 mmol, 150 mg | [H-].[Na+]
reactant | 4-Bromomethyl-3-methoxy-N-cyclohexyl-N-isopropylbenzamide | 5.6 mmol, 2.1 g | BrCC1=C(C=C(C(=O)N(C(C)C)C2CCCCC2)C=C1)OC | C18H26BrNO2
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | N-cyclohexyl-3-methoxy-N-(1-methylethyl)-4-[[2-(2-pyridinyl)-4H-imidazo[4,5-b]pyridin-4-yl]methyl]benzamide | 1.95 g, 67% | C1(CCCCC1)N(C(C1=CC(=C(C=C1)CN1C=2C(=CC=C1)N=C(N2)C2=NC=CC=C2)OC)=O)C(C)C | C29H33N5O2
